US07666888B2
3-(4-Chlorophenyl)-N,N,5-trimethylisoxazole-4-carboxamide
To 3-(4-chlorophenyl)-5-methylisoxazol-4-carboxylic acid (25 mg, 0.10 mmol) was added thionyl chloride (1 mL) and the neat solution allowed to stir 60° C. After 30 min, excess thionyl chloride was evaporated and dimethyl amine (40 μL, 0.08 mmol, 2 M in THF) was added and allowed to stir overnight at ambient temperature. The residue was purified using reversed phase HPLC to afford the title compound (5 mg). HRMS (ESI, pos. ion) m/z calcd for C13H13ClN2O2: 264.0666, found 264.0671.

reactant | 3-(4-chlorophenyl)-5-methylisoxazol-4-carboxylic acid | 0.10 mmol, 25 mg | ClC1=CC=C(C=C1)C1=NOC(=C1C(=O)O)C | C11H8ClNO3
reactant | thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | dimethyl amine | 0.08 mmol, 2 M, 40 μL | CNC | C2H7N
product | 3-(4-Chlorophenyl)-N,N,5-trimethylisoxazole-4-carboxamide | 5 mg | ClC1=CC=C(C=C1)C1=NOC(=C1C(=O)N(C)C)C | C13H13ClN2O2
